US05795497
Potassium tertiary butoxide (43.7 g, 389 mmol) and dimethyl sulfoxide (400 ml) were put in a 2-L egg-plant type flask to make a solution, ethyl 2-thiouracil-5-carboxylate (5.0 g, 25.0 mmol) was slowly added dropwise to the solution, and the mixture was subjected to reaction at room temperature for 1 hour. After the completion of the reaction, methanol (500 ml) was added to the reaction mixture, and the precipitate deposited was filtered. The resultant precipitate was dissolved in water, and hydrochloric acid was added to this solution to give 5-carboxy-2-thiouracil (2.54 g) as a light yellow solid.

reactant | Potassium tertiary butoxide | 389 mmol, 43.7 g | CC(C)([O-])C.[K+]
reactant | dimethyl sulfoxide | 400 ml | CS(=O)C | C2H6OS
reactant | ethyl 2-thiouracil-5-carboxylate | 25.0 mmol, 5.0 g | CCOC(=O)C1=CNC(=S)NC1=O | C7H8N2O3S
solvent | methanol | 500 ml | CO | CH4O
product | 5-carboxy-2-thiouracil | 2.54 g | C(=O)(O)C=1C(NC(NC1)=S)=O | C5H4N2O3S
